US09029371B2
To a solution of 2-aminoethanethiol hydrochloride (6.93 g; 61 mmol) in EtOH (400 mL) was added K2CO3 (16.86 g; 122 mmol), at RT, followed after 15 minutes by bromo-(4-bromo-phenyl)-acetic acid ethyl ester (12 mL; 61 mmol). The resulting mixture was stirred at RT for two days, subsequently, water was added and the resulting mixture was extracted with EtOAc. The combined organic layers were dried (MgSO4), filtered, and concentrated in vacuo. The residue was recrystallized from EtOH to afford 2-(4-bromo-phenyl)-thiomorpholin-3-one (12.8 g).

reactant | 2-aminoethanethiol hydrochloride | 61 mmol, 6.93 g | Cl.NCCS
reactant | K2CO3 | 122 mmol, 16.86 g | C(=O)([O-])[O-].[K+].[K+]
reactant | bromo-(4-bromo-phenyl)-acetic acid ethyl ester | 61 mmol, 12 mL | C(C)OC(C(C1=CC=C(C=C1)Br)Br)=O | C10H10Br2O2
reactant | water | O | H2O
solvent | EtOH | 400 mL | CCO | C2H6O
product | 2-(4-bromo-phenyl)-thiomorpholin-3-one | 12.8 g | BrC1=CC=C(C=C1)C1C(NCCS1)=O | C10H10BrNOS
